US08455477B2
To a solution of 6-bromo-4-methoxypyrazolo[1,5-a]pyridine (1010 mg, 4.43 mmol) in acetonitrile (40 ml) was added N-chlorosuccinimide (1180 mg, 8.86 mmol). The reaction mixture was stirred at room temperature for 6 hours. The reaction mixture was partitioned between dichloromethane (100 ml) and 1N aqueous sodium hydroxide (100 ml). The organic layer was washed with brine (100 ml). The organic layer was dried over sodium sulfate, filtered and concentrated to afford 6-bromo-3-chloro-4-methoxypyrazolo[1,5-a]pyridine as a white solid. 1H NMR (500 MHz, DMSO-d6) δ 8.66 (s, 1H); 8.03 (s, 1H); 6.84 (s, 1H); 3.94 (s, 1H). LRMS (ESI) calculated for C8H6BrClN2O [M+H]+, 260.9; found 261.0.

reactant | 6-bromo-4-methoxypyrazolo[1,5-a]pyridine | 4.43 mmol, 1010 mg | BrC=1C=C(C=2N(C1)N=CC2)OC | C8H7BrN2O
reactant | N-chlorosuccinimide | 8.86 mmol, 1180 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 6-bromo-3-chloro-4-methoxypyrazolo[1,5-a]pyridine | BrC=1C=C(C=2N(C1)N=CC2Cl)OC | C8H6BrClN2O
